US07074819B2
4-(3-Hydroxypropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (280 mg, 0.70 mmol) was dissolved in dichloromethane (50 ml), methanesulfonylchloride (0.32 g) and triethylamine (0.30 g) were added thereto, and the mixture was stirred at room temperature for 1 hour After the reaction was completed, the reaction mixture was poured into water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (n-hexane:ethyl acetate=3:1) to give 4-(3-methanesulfonyloxypropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (a mixture of (3RS,4RS) and (3RS,4SR), (3RS,4RS)/(3RS,4SR)=about 6/1) (350 mg, stoichiometric yield). Then, to a solution of the product (0.59 g, 1.2 mmol) in DMF (15 ml) was added sodium azide (0.14 g), and the mixture was stirred at 60° C. for 2 hours. After the reaction was completed, the reaction mixture was poured into water and extracted with ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to preparative TLC (n-hexane/ethyl acetate=10/1 for twice, 5/1 for twice) to produce (3RS,4RS)-4-(3-azidopropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-m ethylchroman (220 mg, yield 42%).

reactant | 4-(3-Hydroxypropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 0.70 mmol, 280 mg | OCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C23H30O6
reactant | methanesulfonylchloride | 0.32 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.30 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 4-(3-methanesulfonyloxypropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | CS(=O)(=O)OCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C24H32O8S
